US06365753B1
2-Chloro-3-(2-chloro-4-fluoro-5-pthalimidophenyl)propionic Acid
In 200 ml of acetonitrile were dissolved 36.0 g of acrylic acid and 7.73 g of t-butyl nitrite, and 8.07 g of copper (II) chloride was added. Under stirring, 14.5 g of N-(5-amino-4-chloro-2-fluorophenyl)phthalimide was added thereto in small portions, followed by stirring at room temperature for 1.5 hours. 3N Hydrochloric acid was added to the reaction mixture. After stirring, the reaction mixture was extracted with ethyl acetate. The organic layer was washed successively with water and a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-hexane=2:1) to give 14.0 g of the title compound (No. 3 of Table 1).

reactant | acrylic acid | 36.0 g | C(C=C)(=O)O | C3H4O2
reactant | t-butyl nitrite | 7.73 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | N-(5-amino-4-chloro-2-fluorophenyl)phthalimide | 14.5 g | NC=1C(=CC(=C(C1)N1C(C=2C(C1=O)=CC=CC2)=O)F)Cl | C14H8ClFN2O2
reactant | Hydrochloric acid | 3N | Cl | ClH
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
catalyst | copper (II) chloride | 8.07 g | [Cu](Cl)Cl
product | 2-Chloro-3-(2-chloro-4-fluoro-5-pthalimidophenyl)propionic Acid | 14.0 g | ClC(C(=O)O)CC1=C(C=C(C(=C1)N1C(C=2C(C1=O)=CC=CC2)=O)F)Cl | C17H10Cl2FNO4
